Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
OxyContin / Ambien
 
Attending: ___.
 
Chief Complaint:
Fever, somnolence
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr ___ is a ___ with relapsed AML on palliative decitabine 
and a h/o of afib with a pacemaker who was admitted from clinic 
with fever yesterday; he has been treated for pneumonia and is 
being transferred to the FICU for hypoxia and increased work of 
breathing. 

Currently he has a WBC of 3.2, 77% blasts. Yesterday in clinic 
was d9 of his decitabine, and it was discontinued as he was 
found to be somnolent with T=104.4. On admission he was started 
on vanc/cefepime/azithromycin and since then has continued to 
spike but fever curve is downtrending. In addition on admission 
his Cr was at 1.5 from 1.1 and he got 3L NS. Overnight he was 
satting high 80's on RA, and improved to high 90's on 
supplemental O2 by NC however he was noted to be tachypneic. ABG 
showed resp alkalosis and CXR showed pulmonary edema. He has no 
known history of CHF.  He was also noted to have a possibly new 
murmur on exam. His last ECHO from ___ showed only mild AS. 
 

Prior to transfer vitals were 149/70 96% on 2L NC, RR 30's-40's, 
HR 110's. He was given 20mg IV lasix, and made urine with some 
blood and a clot. EKG showed 1mm STD's in V4-V6 new from prior. 
He was AOx3 this AM, now he's spilling things and not making 
sense, he feels confused, head CT read pending but prelim shows 
no abnormality. LP was not attempted due to concern for CNS 
seeding. He has not had a BM in ___ days.  On the floor he is 
less confused but unable to complete sentences although he is 
satting at 95% NC 2L.

 
Past Medical History:
PAST ONCOLOGIC HISTORY:  
Diagnoses with NPM+ AML following presentation  
for fatigue with elevated WBC. Initial course complicated by  
synocpal event prompting PPM placement.  
- Dectiabine C1, ___  
- Decitabine C2, ___. Complicated by admission  

for consitpation and AF.  
- Decitabine C3, ___  
- Decitabine C4, ___  
- Decitabine C5, ___  
- Decitabine C6, ___ 
- MIDAC 5 day course started ___
 
PAST MEDICAL/SURGICAL HISTORY:  
-Atrial fibrillation s/p pace maker placement for Sick sinus 
syndrome- on warfarin  
-Prostate cancer ___ 9 on hormonal therapy. on Casodex  
- HTN  
- Gout  
- Chronic kidney disease- baseline cr. 1.1-1.3  
-CAD- cardiac cath with normal LMCA with two-vessel CAD with 75% 
mid LAD and 70% origin of PDA 

 
Social History:
___
Family History:
Father died at ___--had alzheimer's, mother died at ___--had 
valvular disease. He has a brother who has  
hypertriglyceridemia. His children are in their ___ and healthy. 


 
Physical Exam:
PHYSICAL EXAM ON ADMISSION:
VITALS - T 98.7 BP 128/76 HR 75 RR 18 sat 98%RA 
General: Mild respiratory distress, NC/AT, sitting up to breath 
better, speaking a few words at a time
HEENT: MMM, OP clear, EOMI, anicteric sclera  
LYMPH: No LAD  
CV: RRR, normal s1/s2, ___ holosystolic murmur at LLSB and apex 
difficult to hear over breath sounds
RESP: bilateral crackles 
GI: Soft, distended, non-tender
GU: No foley, had blood and clot in urine
Ext: Warm, well perfused, no edema  
Neuro: AOx3, but has difficulty finding words and imperfect 
memory of recent events. 
 
DISCHARGE PHYSICAL EXAM
Expired.
 
Pertinent Results:
ADMISSION LABS:
___ 09:00AM BLOOD WBC-13.0* RBC-3.47* Hgb-10.9* Hct-31.2* 
MCV-90 MCH-31.4 MCHC-35.0 RDW-15.0 Plt Ct-34*#
___ 09:00AM BLOOD Neuts-5* Bands-0 Lymphs-8* Monos-0 Eos-0 
Baso-0 ___ Myelos-0 Blasts-87* NRBC-1*
___ 12:50PM BLOOD ___ 12:50PM BLOOD Glucose-189* UreaN-32* Creat-1.5* Na-139 
K-3.6 Cl-105 HCO3-25 AnGap-13
___ 09:00AM BLOOD ALT-24 AST-28 LD(LDH)-452* AlkPhos-86 
TotBili-0.5
___ 09:00AM BLOOD Calcium-9.8 Phos-4.2 Mg-2.0
___ 06:00AM BLOOD Hapto-159
___ 06:12PM BLOOD Type-ART pO2-92 pCO2-27* pH-7.53* 
calTCO2-23 Base XS-0
___ 06:12PM BLOOD Lactate-1.6

DISCHARGE LABS:
Expired.

MICRO:
___ blood culture pending
___ urine culture pending
___ blood culture x2 pending
___ C. diff negative
___ blood culture x2 pending
___ sputum gram stain inconclusive
___ cryptococcal antigen negative
___ legionella urinary antigen negative
___ blood cluture x2 negative
___ urine culture negative 
___ aspergiullus galactomanan negative
___ B-glucan negative
___ CMV negative
___ legionella urinary antigen negative
___ respiratory viral screen negative
___ urine cx x1 negative
___ blood cx x3 negative
___ Bone marrow biopsy pending

STUDIES:
CXR ___
Left basal linear opacity reflects area of atelectasis and less 
likely to 
represent an infectious process.  On the other hand, there is 
right upper lobe opacity that appears to be new and may reflect 
infection.  Heart size and mediastinum are stable.  Pacemaker 
leads terminate in the right atrium and right ventricle.  No 
appreciable pleural effusion is seen.  
IMPRESSION: Suspicion for right upper lobe pneumonia. 

CT HEAD ___
No acute intracranial process identified. 

CT CHEST NON CONTRAST ___:
1. Multiple peribronchovascular lung nodules, also with 
confluent appearance in the right lower lobe and surrounding 
ground-glass opacity are suggestive of fungal infection such as 
Aspergillus. However the recent onset of these consolidation is 
not typical of fungal infection, so other etiologies, such as 
vasculitis or bacterial infection cannot be excluded.   
2. Single enlarged mediastinal lymph node alongside descending 
aorta.  
3. In one of the series the trachea, where the patient is likely 
during expiration,  is markedly narrowed. This crescentic 
appearance is suspicious for tracheobronchomalacia.   
4. There are no bone lesions. 

Lower Extremity Ultrasound ___
IMPRESSION:  No deep vein thrombosis in the left upper 
extremity.

Portable CXR ___
As compared to the previous radiograph, the widespread bilateral 

parenchymal opacities, likely reflecting a combination of 
pulmonary edema and infection, are constant in appearance.  They 
have neither increased nor decreased since the previous exam.  
Currently, there are no larger pleural effusions and the size of 
the cardiac silhouette is mildly enlarged.  No pneumothorax.  No 
new parenchymal changes. 
 
Brief Hospital Course:
FICU Course:
___ with h/o AML with normal cytogenetics and NPM+ s/p 6 
cycles of decitabine and a single cycle of mid dose cytarabine, 
recently started on salvage decitabine 1 week ago for 1 
increased peripheral blasts who presents with fever.  

#HYPOXEMIA, FEVERS : Patient came in with sats in the ___.  
After being placed on 2L NC, he was satting in the ___ but still 
unable to speak full sentences and tachypnoeic in the ___.  
Etiology was felt to be most consistent with infection given 
fevers and bandemia on CBC. PE was also on the 
differential(given history of malignancy, tachypnoeia and 
dropping sats, sub-therapeutic INR of 1.6). Patient's Wells 
scoring is 3 and puts him at a moderate risk of having developed 
a PE.  However, given overall low suspicion for PE, elevated Cr, 
and infection as a likely alternative explanation for hypoxemia, 
CTA was not pursued.  Initial CXR concering for RUL pneumonia 
and patient started on treatment for HCAP with vanc, cefepime, 
and azithromycin.  Patient did not improve and was noted to by 
tachypneic, increased oxygen requirement, and very confused.  
Patient bolused 3L fluid on admission, CXR shows some blunting 
of costo-phrenic angles and fluid in the fissures indicative of 
pulmonary edema. Patient given 40mg IV lasix x1.  Patient was 
transferred to the ICU.  Bilateral LENIs were performed showing 
no clot burden in the legs.  Patient has no history of HF and 
recent ECHO in ___ showed mild AS. Repeat ECHO ___ showed LVEF 
70% with mild LVH and stable AS.  CT done in the unit was 
concerning for fungal pneumonia and patient was started on 
ambisome.  In addition, patient developed AF with RVR and 
started on an amiodraone drip.  His rate was well-controlled and 
his breathing improved and he was transferred back to the floor. 
 That evening patient became very delirious, agitated, pulling 
at face mask, and not sleeping at all.  He was given ativan and 
haldol to help control his agitation.  The next morning patient 
went back into a fib with RVR as well as continued agitation.  
He was transferred back to the ICU for rate control as well as 
hypoxia.  His respiratory status did not improve in the ICU and 
at this time his family decided to make him CMO.  He was 
transferred back to the floor and the family wished to 
discontinue the antibiotics.  His pain and agitation were 
controlled with ativan and dilaudid.  He passed away comfortably 
on ___ @ 2:24AM from respiratory failure secondary to 
pneumonia.  

#ALTERED MENTAL STATUS: Patient has had increased confusion over 
the last few days.  Likely etiology from infection in chest.  
Important to exclude any CNS infections given setting of 
immunosuppression and CT head showed no intracranial process. 
Decitabine can also cause confusion but again, given this is 
patient's ___ cycle this is unlikely.  Cefepime can also 
increase patient's confusional state.  Patient was very 
constipated which is a likely etiology. Electrolytes are all 
within normal limits and UA was clean.  Blood cultures and urine 
cultures showed no growth. His mental status continued to wax 
and wane with his fevers.   
 
# Atrial fibrillation and sick sinus syndrome, s/p pacemaker. 
CHADS score is 2.  
Coumadin was held as platelets 22 whilst in the ICU. While 
initially in the FICU, the patient had several episodes of AFib 
with RVR associated with worsening respiratory status likely 
from pulmonary edema.  He remained relatively nonresponsive to 
nodal blockade (metoprolol, diltiazem drip, esmolol drip) and 
required two separate occasions of IV amiodarone load.  After 
converting to sinus rhythm, the patient's amiodarone was 
discontinued and he was transferred to the floor.  There, he 
converted back to AFib with RVR with worsening O2 requirement.  
Patient was given Metoprolol 5mg IV x3 and 25mg PO as well as 
haldol and morphine for agitation.  His tachycardia did not 
respond however he developed hypotension and was not able to 
recieve additional beta-blocker.  Later that afternoon, his 
pressures improved and he was given verapamil for rate control 
without improvement, for which he was transferred to the ICU on 
___ for further management.  The EP team was consulted and 
had initially recommended restart amiodarone.  However, the 
patient spontaneously converted back to sinus rhythm before the 
amiodarone was started.  EP recommended that for further 
episodes of AFib w/ RVR that the patient be started on verapamil 
and calcium gluconate.  He was transferred back to the floor 
where he remained in sinus rhythm.

#THROMBOCYTOPENIA: Most likely etiology reduced platelet 
production from bone marrow suppression from AML disease.  
Patient has had low platelets in the past and been very 
responsive to platelet transfusion (up to 100s), supporting the 
idea of decreased production even more so.  Patient was 
transfused one unit of platelets in the ICU.

#) AML: normal cytogenetics, recent relapse and increase in 
blast count in the periphery with thrombocytopenia, bone marrow 
biopsy results are pending. Now on hydrea 2000mg BID as a 
temporizing measure pending decitabine activity. He previously 
had an episode of nystagmus following cytarabine, raising 
concern for possible cerebellar toxicity, seen by neuro who 
agreed, avoiding further cytarabine doses.  Decitabine was held 
given fevers.  Hydroxyurea 2g BID was continued.  

#) Acute on Chronic kidney disease: baseline Cr is 1.1-1.2, 
admission creatinine is 1.5. Likely ___ fever and poor PO 
intake.  He was managed with IV fluids and medications were 
renally dosed.  His creatinine continued to climb to as high as 
2.9.  His urine was spun and it had casts suggestive of ATN.  He 
renal function did not improve with fluids.  

#) Hypertension  
- continued metoprolol, held lisinopril for above  

#) Gout  
- continued allopurinol renally dosed  

#) Prostate cancer, ___ 9. Consideration being given to XRT 
therapy, though per outpatient notes, likely this will be put on 
hold ___ relapsed leukemia.  
- continued finasteride 5mg daily and goserelin (which is a subQ 
implant)  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Finasteride 5 mg PO DAILY 
2. Lisinopril 30 mg PO DAILY 
3. Goserelin Acetate 10.8 mg SC EVERY 3 MONTHS 
4. Allopurinol ___ mg PO DAILY 
5. Hydroxyurea ___ mg PO BID 
6. Metoprolol Tartrate 25 mg PO BID 
___  MD to order daily dose PO DAILY16 
8. Tamsulosin 0.4 mg PO HS 

 
Discharge Medications:
Expired.
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Expired.
 
Discharge Condition:
Expired.
 
Discharge Instructions:
Expired.
 
Followup Instructions:
___